US04143047
2-(N-Butyl-phenylacetamido)-4-methyloxazole
N-Butyl-phenylacetamide (1.80 g, 0.0094 m) in N-methyl pyrrolidone (10 ml) was stirred at 80° C. under nitrogen during the portionwise addition of a 50% sodium hydride/oil dispersion (0.75 g, 0.0094 m). After the addition, the mixture was warmed to 100° C. and 2-cyclohexylsulphinyl-4-methyloxazole (2.0 g, 0.0094 m) in dry N-methyl pyrrolidone (10 ml) was added. The mixture was stirred at 100° C. for 5 hours and then hydrolysed with water. The solvent was removed in vacuo and the product isolated by column chromatography on silica using ether. Distillation gave the title product as a colourless oil. b.p. 126°-130° C./0.2 mm.

reactant | N-Butyl-phenylacetamide | 1.80 g | C(CCC)NC(CC1=CC=CC=C1)=O | C12H17NO
reactant | sodium hydride | [H-].[Na+]
reactant | 2-cyclohexylsulphinyl-4-methyloxazole | 2.0 g | C1(CCCCC1)S(=O)C=1OC=C(N1)C | C10H15NO2S
reactant | water | O | H2O
solvent | N-methyl pyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
solvent | N-methyl pyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
solvent | ether | CCOCC | C4H10O
product | 2-(N-Butyl-phenylacetamido)-4-methyloxazole | C(CCC)N(C(CC1=CC=CC=C1)=O)C=1OC=C(N1)C | C16H20N2O2
